US09376436B2
A solution of 1-benzyloxy-5-ethoxy-2,3-difluoro-benzene (which may be prepared as described in Description 60) (546 mg, 2.07 mmol) in methanol (10 mL) was passed through a 10% Pd—C H-cube cartridge at 1 ml/min. The solution was passed through the H-cube a second time. Chromatography on silica (elution with DCM) gave 5-ethoxy-2,3-difluoro-phenol (D61) (270 mg);

reactant | 1-benzyloxy-5-ethoxy-2,3-difluoro-benzene | 2.07 mmol, 546 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)OCC)F)F | C15H14F2O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | 5-ethoxy-2,3-difluoro-phenol | 270 mg | C(C)OC=1C=C(C(=C(C1)O)F)F | C8H8F2O2
